US04791139
Stage 2: Preparation of methyl 3-(4-ethoxyphenyl)-4,4,4-trifluorobutanoate
A mixture of methyl E-3-(4-ethoxyphenyl)-4,4,4-trifluorobut-2-enoate (2.4 g, 8.8×10-3 moles) and 5% palladium on carbon (500 mg) in ethanol (50 cm3) was rapidly stirred under hydrogen (three atmospheres) for two hours. The catalyst was filtered off and the solvent removed to leave a colourless oil. Chromatographic purification allowed the isolation of the desired product (2.3 g, 96%).

reactant | methyl E-3-(4-ethoxyphenyl)-4,4,4-trifluorobut-2-enoate | 8.8×10-3 moles, 2.4 g | C(C)OC1=CC=C(C=C1)\C(=C/C(=O)OC)\C(F)(F)F | C13H13F3O3
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | methyl 3-(4-ethoxyphenyl)-4,4,4-trifluorobutanoate | C(C)OC1=CC=C(C=C1)C(CC(=O)OC)C(F)(F)F | C13H15F3O3
